US06495561B2
Compound AAA was prepared by the following procedure. To a solution of 4-carboxymethyl-cyclohexanecarboxylic acid ethyl ester (10.5 g, 49.0 mmol), EDC (9.4 g, 49.0 mmol) and HOAt (6.7 g, 49.0 mmol) in 80 mL anhydrous DMF was added phenylenediamine (5.3 g, 49.0 mmol) and the reaction mixture stirred for 1 h. The resulting reaction mixture was partitioned between saturated aqueous NaHCO3 and EtOAc and the organic portion washed 3× with water. The organic layer was dried with MgSO4 and concentrated to yield a yellow oil. The crude material was dissolved in toluene/TFA (1:1 300 mL), heated to 90° C., and stirred overnight. The reaction mixture was then concentrated and purified by column chromatography on silica using EtOAc followed by 90:10:1 CH2Cl2/MeOH/NH4OH to give 4-(1H-imidazo[4,5-b]pyridin-2-ylmethyl)-cyclohexanecarboxylic acid ethyl ester as a colorless oil. Data for cis/trans mixture: mass spectrum m/z 288 [(M+H)+; calcd for C16H22N3O2: 287].

reactant | 4-carboxymethyl-cyclohexanecarboxylic acid ethyl ester | 49.0 mmol, 10.5 g | C(C)OC(=O)C1CCC(CC1)CC(=O)O | C11H18O4
reactant | EDC | 49.0 mmol, 9.4 g
reactant | HOAt | 49.0 mmol, 6.7 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | phenylenediamine | 49.0 mmol, 5.3 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | toluene TFA | 300 mL | C1(=CC=CC=C1)C.C(=O)(C(F)(F)F)O
product | 4-(1H-imidazo[4,5-b]pyridin-2-ylmethyl)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)CC=1NC=2C(=NC=CC2)N1 | C16H21N3O2
